US07354941B2
(S)-2-[4-(1-Hydroxy-1-methyl-ethyl)-cyclohex-1-enylmethyl]-isoindole-1,3-dione of Formula (5.0.17)
A mixture of 2.2 g (16 mmol) K2CO3, 1.2 g (8.4 mmol) phthalimide, and 40 ml DMF was stirred at room temperature for 0.5 hours. Thereafter, 1.7 g (7.4 mmol) (S)-2-(4-bromomethyl-cyclohex-3-enyl)-propan-2-ol (Bull, et. al. Aust. J. Chem., 46 1869, 1993) was added and the resulting mixture was stirred at room temperature for 72 h. Water was added and the mixture was then extracted with ethyl acetate. The ethyl acetate extracts were combined; washed with water and brine; dried (MgSO4); and filtered and concentrated in vacuo. Chromatography on silica gel using 20% ethyl acetate/hexanes yielded 0.62 g (28%) of the desired product.

reactant | K2CO3 | 16 mmol, 2.2 g | C(=O)([O-])[O-].[K+].[K+]
reactant | phthalimide | 8.4 mmol, 1.2 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | DMF | 40 ml | CN(C)C=O | C3H7NO
reactant | (S)-2-(4-bromomethyl-cyclohex-3-enyl)-propan-2-ol | 7.4 mmol, 1.7 g | BrCC1=CC[C@H](CC1)C(C)(C)O | C10H17BrO
solvent | Water | O | H2O
product | (S)-2-[4-(1-Hydroxy-1-methyl-ethyl)-cyclohex-1-enylmethyl]-isoindole-1,3-dione | 0.62 g, 28% | OC(C)(C)[C@@H]1CC=C(CC1)CN1C(C2=CC=CC=C2C1=O)=O | C18H21NO3
